* C:\Users\aites\Documents\LTspiceXVII\OP_AMP_Substractor\Op_AMP_Substractor.asc
V1 VDC 0 15V
XU1 VFB2 VFB1 VDC 0 out level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 VFB2 FB_SYS 1k
R2 out VFB2 1k
R3 VFB1 Source 1k
R4 0 VFB1 1k
V2 Source 0 12V
V3 FB_SYS 0 8V
;tran 100
.dc V3 0 13 0.1
.lib UniversalOpAmp1.lib
.backanno
.end
